US07754728B2
8-Bromo-2-butylamino-9-(3-methoxycarbonylmethylbenzyl)adenine
After 2-butylamino-9-(3-methoxycarbonylmethylbenzyl)adenine obtained by Reference example 36 (0.23 g, 0.61 mmol) was dissolved in chloroform (10 ml), bromine (0.15 g, 0.92 mmol) was added thereto and the mixture was stirred at room temperature for 1 hour. After removing the solvent, the residue was poured into water and extracted with chloroform. The organic layer was washed with saturated sodium hydrogencarbonate, saturated sodium hydrogensulfite and saturated brine in that order, dried over anhydrous magnesium sulfate and concentrated to give the captioned compound (0.23 g, 0.51 mmol, yield: 83%) as a pale yellow solid.

reactant | 2-butylamino-9-(3-methoxycarbonylmethylbenzyl)adenine | C(CCC)NC1=NC(=C2N=CN(C2=N1)CC1=CC(=CC=C1)CC(=O)OC)N | C19H24N6O2
reactant | bromine | 0.92 mmol, 0.15 g | BrBr | Br2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-butylamino-9-(3-methoxycarbonylmethylbenzyl)adenine | 0.51 mmol, 0.23 g, yield: 83% | BrC=1N(C2=NC(=NC(=C2N1)N)NCCCC)CC1=CC(=CC=C1)CC(=O)OC | C19H23BrN6O2
